US04032605
Acetyl 2-chlorobutyryl peroxide.
To 9.5 g. (0.05 moles) of 40% peracetic acid in 20 cc. H2O was added 3.2 g. (0.03 moles) of anhydrous sodium carbonate. The mixture was chilled to -3° C. with stirring and 7.1 g. (0.05 moles) of 2-chlorobutyryl chloride in 30 cc. chloroform added over a period of 8 minutes. After a total of 40 minutes at -3° to -6° C., ether and water were added. The organic phase was separated, washed once with cold 1% KOH solution, once with ice water, and once with cold saturated salt water. The concentrated material weighed 8.2 g., including 2.0 g. of dimethyl phthlate. Product A.O. analysis: theory, 8.14 found, 4.81; 59.1% pure; 49.5% yield.

reactant | peracetic acid | 0.05 moles | C(C)(=O)OO | C2H4O3
reactant | sodium carbonate | 0.03 moles | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chlorobutyryl chloride | 0.05 moles | ClC(C(=O)Cl)CC | C4H6Cl2O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Acetyl 2-chlorobutyryl peroxide | 49.5% yield | ClC(C(=O)OOC(C)=O)CC | C6H9ClO4
